US07056937B2
Step C: Synthesis of 2-(2-Methyl-pyridin-4-yl)-ethanol
A solution of (2-methyl-pyridin-4-yl)-acetic acid ethyl ester (3.75 g, 20.2 mmol) in 100 mL of THF was cooled in an ice bath and a 1.0M solution of LAH in THF was added (15.7 mL, 15.7 mmol). The reaction mixture was allowed to warm to room temperature and stirred overnight. The mixture was cooled in an ice bath and quenched with the successive addition of water, 15% aqueous sodium hydroxide solution and additional water. The resulting mixture was stirred at room temperature for 1 hour then dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to give 2.8 g of the title compound as a light brown oil. MS(ES): m/e (EI*) 138.1 [M+H]

reactant | (2-methyl-pyridin-4-yl)-acetic acid ethyl ester | 20.2 mmol, 3.75 g | C(C)OC(CC1=CC(=NC=C1)C)=O | C10H13NO2
reactant | LAH | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-(2-Methyl-pyridin-4-yl)-ethanol | 2.8 g | CC1=NC=CC(=C1)CCO | C8H11NO
